US05061717
4-[3-(3-Methoxyphenyl)-2-propenoyl]aniline
A solution of p-aminoacetophenone (14.9 g, 0.11 mol) and m-anisaldehyde (10.0 g, 73 mmol) in methanol (500 ml) and 1N NaOH (260 ml) was stirred at room temperature overnight. The precipitate was collected, the filtrate was concentrated to 300 ml and the new precipitate was collected. The combined solids were recrystallized from isopropanol to give present title product as a yellow solid (10.4 g, 56%).

reactant | p-aminoacetophenone | 0.11 mol, 14.9 g | NC1=CC=C(C=C1)C(C)=O | C8H9NO
reactant | m-anisaldehyde | 73 mmol, 10.0 g | C(C1=CC(=CC=C1)OC)=O | C8H8O2
solvent | methanol | 500 ml | CO | CH4O
solvent | NaOH | 1N, 260 ml | [OH-].[Na+]
product | 4-[3-(3-Methoxyphenyl)-2-propenoyl]aniline | 10.4 g, 56% | COC=1C=C(C=CC1)C=CC(=O)C1=CC=C(N)C=C1 | C16H15NO2
